US09108939B2
C: 2-(4-((4-(1-(4-Aminophenyl)-1-hydroxyethyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
N-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1-hydroxyethyl)phenyl)acetamide (0.482 mmol, 250 mg) was dissolved in ethanol (5 mL) and 2M hydrochloric acid (12.00 mmol, 6 mL) added. The mixture was heated to 100° C. for 5 hours then cooled. The mixture was purified by strong cation exchange column chromatography and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting with dichloromethane to 10% methanol/dichloromethane) to afford the title compound (120 mg). MS (ESI) m/z 477.2 [M+H]+

reactant | N-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1-hydroxyethyl)phenyl)acetamide | 0.482 mmol, 250 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(C)(O)C2=CC=C(C=C2)NC(C)=O)C=C1)(F)F | C25H28F6N2O3
reactant | hydrochloric acid | 12.00 mmol, 2M, 6 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(4-((4-(1-(4-Aminophenyl)-1-hydroxyethyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 120 mg | NC1=CC=C(C=C1)C(C)(O)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C23H26F6N2O2
